* AC-coupled non-inverting amplifier, gain 11.
VIN IN 0 DC 0 AC 1
VCC VCC 0 12
VEE VEE 0 -12
RBYPASS IN NP 1m
RBIAS NP 0 100k
RG NM 0 10k
RF OUT NM 100k
XU1 NP NM VCC VEE OUT LM2904
RLOAD OUT 0 100k
.end
