* Four-resistor difference amplifier, differential gain 5.
VIP INP 0 DC 0 AC .5
VIN INN 0 DC 0 AC .5 180
VCC VCC 0 12
VEE VEE 0 -12
R1 INN NM 10k
R2 OUT NM 50k
R3 INP NP 10k
R4 NP 0 100k
XU1 NP NM VCC VEE OUT LM2904
RLOAD OUT 0 20k
.end
