* Zener reference with emitter-follower buffer, two output loads.
VDD VCC 0 12
RS VCC B 1k
DZ 0 B 1N4733A
Q1 VCC OUT B 2N2222
RLOAD OUT 0 470
CB B 0 100n
.end
