* ==========================================================
* NE555 Transistor-Level Model (Ngspice 100% Compatible)
* Pin Mapping: 1=GND, 2=TR, 3=OUT, 4=RST, 5=CV, 6=THR, 7=DIS, 8=VCC
* ==========================================================
.SUBCKT NE555 1 2 3 4 5 6 7 8
R1 8 5 5K
R2 5 N_COMP1 5K
R3 N_COMP1 1 5K
Q1 N_C1 6 8 QP_555
Q2 N_C2 5 8 QP_555
R4 N_C1 1 10K
R5 N_C2 1 10K
Q3 N_T1 N_C1 1 QN_555
Q4 N_T2 N_C2 1 QN_555
Q5 N_C3 2 8 QP_555
Q6 N_C4 N_COMP1 8 QP_555
R6 N_C3 1 10K
R7 N_C4 1 10K
Q7 N_T3 N_C3 1 QN_555
Q8 N_T4 N_C4 1 QN_555
Q9 N_LATCH N_T1 1 QN_555
Q10 N_LATCH N_T4 1 QN_555
R8 8 N_LATCH 10K
Q11 8 N_LATCH N_OUT_PRE QN_555
Q12 N_OUT_PRE N_LATCH 1 QN_555
R9 N_OUT_PRE 3 50
Q13 7 N_LATCH 1 QN_555
Q14 N_LATCH 4 1 QN_555
.MODEL QN_555 NPN(Is=1e-14 Bf=100)
.MODEL QP_555 PNP(Is=1e-14 Bf=50)
.ENDS NE555
