* Two buffered RC sections, overall -3 dB cutoff approximately 500 Hz.
VIN IN 0 DC 0 AC 1
VCC VCC 0 12
VEE VEE 0 -12
R1 IN N1 20.49k
C1 N1 0 10n
XU1 N1 BUF VCC VEE BUF LM2904
R2 BUF N2 20.49k
C2 N2 0 10n
XU2 N2 OUT VCC VEE OUT LM2904
RLOAD OUT 0 100k
.end
