* Two-BJT LED current sink, approximately 6 mA at 9 V and 12 V.
VDD VCC 0 9
RB VCC B 10k
Q1 OUT B SENSE 2N2222
Q2 B SENSE 0 2N2222
RSENSE SENSE 0 100
DLED VCC LED_C LED
VLOAD LED_C OUT 0
.end
